US06878704B2
Preparation 21 3-Methoxy-2-nitropyridine-6-carboxaldehyde
A mixture of 3-methoxy-6-methyl-2-nitropyridine (S. Lindstrom, T. Ahmad and S. Grivas, Heterocycles (1994), 38(3), 529-540) (30 mmole) and N-bromosuccinimide (60 mmole) in CCl4 (50 ml) was refluxed under a 500 watt tungsten lamp for 16 hours, cooled, filtered and evaporated. A portion (2.4 g) of the crude product was mixed with sodium formate (1 g), water (1 ml) and ethanol (7 ml), refluxed for 24 hours, cooled and concentrated to low volume. The residue was partitioned between dichloromethane and water, the organic dried and evaporated. Chromatography gave the title compound (25%).

reactant | 3-methoxy-6-methyl-2-nitropyridine | 30 mmole | COC=1C(=NC(=CC1)C)[N+](=O)[O-] | C7H8N2O3
reactant | N-bromosuccinimide | 60 mmole | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tungsten | [W] | W
product | 3-Methoxy-2-nitropyridine-6-carboxaldehyde | 25% | COC=1C(=NC(=CC1)C=O)[N+](=O)[O-] | C7H6N2O4
